US08685969B2
2. Ethyl 2-((4-bromo-7-cyano-1H-indol-3-yl)methylamino)-3,3-diethoxypropanoate
A mixture of 4-bromo-3-formyl-1H-indole-7-carbonitrile (1.08 g, 4.34 mmol), ethyl 2-amino-3,3-diethoxypropanoate (prepared according to the procedure of U.S. Pat. No. 7,470,680; 1.780 g, 6.94 mmol), and molecular sieves (2.17 g, 2 g) in 1,2-dichloroethane (79 mL) and THF (29.6 mL) at 0° C. was treated with sodium triacetoxyborohydride (2.57 g, 12.14 mmol) and the resulting mixture was stirred at room temperature overnight. After 24 h, LCMS residual starting material, so additional sodium triacetoxyborohydride (1.38 g, 1.5 eq.) and molecular sieves (2 g) were added and stirring was continued for 4 h more. The mixture was diluted with EtOAc and filtered through a CELITE® pad and the solids were washed with EtOAc. The filtrates were diluted with EtOAc and washed with NaHCO3 (aq) and brine, dried and concentrated to afford a dark-colored oil. The residue was subjected to column chromatography on silica gel (40 g), eluting with EtOAc-hexane (gradient from 15:85 to 100:0) to provide the desired product as a brown syrup (0.67 g, 35% yield). LCMS (M+H)+ m/z 438.2, 440.2.

reactant | 4-bromo-3-formyl-1H-indole-7-carbonitrile | 4.34 mmol, 1.08 g | BrC1=C2C(=CNC2=C(C=C1)C#N)C=O | C10H5BrN2O
reactant | ethyl 2-amino-3,3-diethoxypropanoate | NC(C(=O)OCC)C(OCC)OCC | C9H19NO4
reactant | THF | 29.6 mL | C1CCOC1 | C4H8O
reactant | sodium triacetoxyborohydride | 12.14 mmol, 2.57 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 1.38 g, 1.5 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 79 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 2-((4-bromo-7-cyano-1H-indol-3-yl)methylamino)-3,3-diethoxypropanoate | 0.67 g, 35% yield | BrC1=C2C(=CNC2=C(C=C1)C#N)CNC(C(=O)OCC)C(OCC)OCC | C19H24BrN3O4
